### PR TITLE
[Merged by Bors] - feat(Data/ENat): add lemma about ENat

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Add a missing simp lemma

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENat/Basic.lean [hunk 1]
```diff
@@ -288,6 +292,14 @@ lemma lt_one_iff_eq_zero : n < 1 ↔ n = 0 :=
 theorem lt_add_one_iff (hm : n ≠ ⊤) : m < n + 1 ↔ m ≤ n :=
   Order.lt_add_one_iff_of_not_isMax (not_isMax_iff_ne_top.mpr hm)
 
+lemma add_one_lt_add_one_iff {a b : ℕ∞} : a < b ↔ a + 1 < b + 1 := by
+  by_cases eqtop : b = ⊤
+  · simp [eqtop]
+  · refine ⟨fun lt ↦ ?_, fun lt ↦ ?_⟩
+    · simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff (LT.lt.ne_top lt)] using lt
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENat/Basic.lean:299]: The `LT.lt.*` lemmas exist to be used with dot notation:
```suggestion
    · simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff lt.ne_top] using lt
```

File: Mathlib/Data/ENat/Basic.lean [hunk 2]
```diff
@@ -288,6 +292,14 @@ lemma lt_one_iff_eq_zero : n < 1 ↔ n = 0 :=
...
+    · have lttop : a < ⊤ := lt_of_add_lt_add_right (lt_top_of_lt lt)
+      simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff (LT.lt.ne_top lttop)] using lt
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENat/Basic.lean:301]:
```suggestion
      simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff lttop.ne_top] using lt
```

File: Mathlib/Data/ENat/Basic.lean [hunk 3]
```diff
@@ -288,6 +292,14 @@ lemma lt_one_iff_eq_zero : n < 1 ↔ n = 0 :=
 theorem lt_add_one_iff (hm : n ≠ ⊤) : m < n + 1 ↔ m ≤ n :=
   Order.lt_add_one_iff_of_not_isMax (not_isMax_iff_ne_top.mpr hm)
 
+lemma add_one_lt_add_one_iff {a b : ℕ∞} : a < b ↔ a + 1 < b + 1 := by
+  by_cases eqtop : b = ⊤
+  · simp [eqtop]
+  · refine ⟨fun lt ↦ ?_, fun lt ↦ ?_⟩
+    · simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff lt.ne_top] using lt
+    · have lttop : a < ⊤ := lt_of_add_lt_add_right (lt_top_of_lt lt)
+      simpa [ENat.lt_add_one_iff eqtop, ENat.add_one_le_iff lttop.ne_top] using lt
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/Data/ENat/Basic.lean:301]: I don't know this tactic, thanks.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
